US04282230
6-Chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-quinolinol, hydrochloride (1:1.5)
4.1 g of 4-bromomethyl-6-chloro-2-hydroxyquinoline (0.015 mol), 3.9 g of 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol (0.015 mol), 15.2 g of sodium hydroxide (0.38 mol) in 15 ml of water, 0.25 g of benzyltrimethylammonium chloride and 50 ml of tetrahydrofuran are reacted in a manner similar to the procedure of Example 1. After work up of the mixture, the oily product is treated with water and ether. To the aqueous layer is added half concentrated hydrochloric acid (pH 5) and subsequently aqueous ammonia (10%) for neutralization of the hydrochloride. The deposited oily product is extracted with chloroform and the chloroform layer is washed with water, dried and charcoaled. Then the solvent is removed in vacuo, the solid product dissolved in ethyl acetate and to the clear solution is added etheral hydrochloric acid. The precipitated hydrochloride (3.4 g) is washed with ethyl acetate, treated with boiling acetonitrile and then with anhydrous ether. The filtered off product, which contains two moles of crystal water, is dried at 70°-75° C.; m.p. 176°-178° C.

reactant | 4-bromomethyl-6-chloro-2-hydroxyquinoline | 0.015 mol, 4.1 g | BrCC1=CC(=NC2=CC=C(C=C12)Cl)O | C10H7BrClNO
reactant | 1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethanol | 0.015 mol, 3.9 g | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)O | C11H10Cl2N2O
reactant | sodium hydroxide | 0.38 mol, 15.2 g | [OH-].[Na+]
reactant | hydrochloric acid | pH 5 | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 15 ml | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.25 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-Chloro-4-[[1-(2,4-dichlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-2-quinolinol, hydrochloride | Cl.ClC=1C=C2C(=CC(=NC2=CC1)O)COC(CN1C=NC=C1)C1=C(C=C(C=C1)Cl)Cl | InChI=1S/C21H16Cl3N3O2.ClH/c22-14-2-4-19-17(8-14)13(7-21(28)26-19)11-29-20(10-27-6-5-25-12-27)16-3-1-15(23)9-18(16)24;/h1-9,12,20H,10-11H2,(H,26,28);1H
